US07750014B2
To a solution of methyl [4-chloro-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate (2.70 g, 8.39 mmol) and aminoacetoaldehyde dimethyl acetal (1.83 mL, 16.78 mmol) in dioxane (40 mL) was added N,N-diisopropylethylamine (1.46 mL, 8.39 mmol). The mixture was stirred at 85° C. for 1 day. After cooling to room temperature, the reaction was quenched with water, and extracted with ethyl acetate. The extracts were washed with water and brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica-gel, (ethyl acetate) to give methyl [4-[(2,2-dimethoxyethyl)amino]-2-(4-nitrobenzyl)-pyrimidin-5-yl]acetate (2.41 g, 74%) as brown oil.

reactant | methyl [4-chloro-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate | 8.39 mmol, 2.70 g | ClC1=NC(=NC=C1CC(=O)OC)CC1=CC=C(C=C1)[N+](=O)[O-] | C14H12ClN3O4
reactant | aminoacetoaldehyde dimethyl acetal | 16.78 mmol, 1.83 mL | COC(CN)OC | C4H11NO2
reactant | N,N-diisopropylethylamine | 8.39 mmol, 1.46 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | methyl [4-[(2,2-dimethoxyethyl)amino]-2-(4-nitrobenzyl)-pyrimidin-5-yl]acetate | 2.41 g, 74% | COC(CNC1=NC(=NC=C1CC(=O)OC)CC1=CC=C(C=C1)[N+](=O)[O-])OC | C18H22N4O6
